US08334295B2
3-Bromomethyl-4-chloro-5-methyl-benzonitrile (0.9938 g, 4.06 mmol), potassium cyanide (0.529 g, 8.12 mmol) in ethanol (5.0 mL) and H2O (2.5 mL) was heated at 85° C. for 3 hr. The reaction mixture was cooled, diluted with ethyl acetate, washed with brine, dried (MgSO4), concentrated and purified by flash column chromatography (silica gel, 0 to 30% ethyl acetate/hexane) to give 4-chloro-3-cyanomethyl-5-methyl-benzonitrile as a white solid (0.3707 g, 48%). 1H NMR (300 MHz, CDCl3): 7.61 (s, 1H), 7.51 (s, 1H), 3.83 (s, 2H), 2.40 (s, 3H).

reactant | 3-Bromomethyl-4-chloro-5-methyl-benzonitrile | 4.06 mmol, 0.9938 g | BrCC=1C=C(C#N)C=C(C1Cl)C | C9H7BrClN
reactant | potassium cyanide | 8.12 mmol, 0.529 g | [C-]#N.[K+]
solvent | ethanol | 5.0 mL | C(C)O | C2H6O
solvent | H2O | 2.5 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-chloro-3-cyanomethyl-5-methyl-benzonitrile | 0.3707 g, 48% | ClC1=C(C=C(C#N)C=C1C)CC#N | C10H7ClN2
